US08623889B2
A mixture of N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide (70.6 mg, 0.242 mmol), sodium tert-butoxide (36.0 mg, 0.374 mmol), tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (13.0 mg, 0.0126 mmol), and Q-Phos (19.3 mg, 0.0272 mmol) in toluene (1.0 mL, 9.4 mmol) was subjected to microwave irradiation at 120° C. for 30 minutes. The reaction mixture was neutralized with 10% aqueous citric acid and extracted with dichloromethane. The organic extract was dried over MgSO4, filtered, and evaporated in vacuo. The crude product was purified via reverse phase HPLC and lyophilized to yield 3.6 mg (5.2%) of N-(7-tert-butoxyisoquinolin-3-yl)cyclopropanecarboxamide. LCMS (ESI): RT=4.371, M+H=285.1, method=E; 1H NMR (400 MHz, DMSO-d6) δ 10.78 (s, 1H), 9.06 (s, 1H), 8.40 (s, 1H), 7.78 (d, J=8.9 Hz, 1H), 7.60 (d, J=2.2 Hz, 1H), 7.35 (dd, J=8.9, 2.4 Hz, 1H), 2.12-1.97 (m, 1H), 1.39 (s, 9H), 0.91-0.75 (m, 4H).

reactant | N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide | 0.242 mmol, 70.6 mg | BrC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C13H11BrN2O
reactant | sodium tert-butoxide | 0.374 mmol, 36.0 mg | CC(C)([O-])C.[Na+]
reactant | toluene | 9.4 mmol, 1.0 mL | C1(=CC=CC=C1)C | C7H8
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 0.0126 mmol, 13.0 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | Q-Phos | 0.0272 mmol, 19.3 mg | CC(C)(C)P([C-]1C=CC=C1)C(C)(C)C.C1=CC=C(C=C1)[C-]2C(=C(C(=C2C3=CC=CC=C3)C4=CC=CC=C4)C5=CC=CC=C5)C6=CC=CC=C6.[Fe+2]
product | N-(7-tert-butoxyisoquinolin-3-yl)cyclopropanecarboxamide | 3.6 mg, 5.2% | C(C)(C)(C)OC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C17H20N2O2
